US04377522
2 g (0.005 mol) of 2 amino-N-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-2-methylpropionamide are dissolved in 50 ml of 1,2-dichloroethane and added to 1 g of phosgene in 50 ml of 1,2-dichloroethane at room temperature. The reaction mixture is stirred for 1/2 hour and subsequently made basic with triethylamine. The mixture is treated with water and extracted with methylene chloride. The organic phase is dried and evaporated. The residue gives, from ethyl acetate/ether, 3-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-5,5-dimethylhydantoin of melting point 286°-287°.

reactant | amino-N-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-2-methylpropionamide | NC(C(=O)NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1)(C)C | C22H25FN4O2
reactant | phosgene | 1 g | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 3-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-5,5-dimethylhydantoin | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)N2C(NC(C2=O)(C)C)=O)C)=O)(C)C | C23H23FN4O3
